### PR TITLE
Add lemmas about kl and condKL, golf proof of kl_compProd

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add some lemmas about kl and condKL, add lemma integral_congr_ae₂, golf kl_compProd.
Depends on #10 and #12.

### CODE REVIEW

File: TestingLowerBounds/KullbackLeibler.lean [hunk 1]
```diff
@@ -255,6 +301,30 @@ lemma condKL_self (κ : kernel α β) (μ : Measure α) [IsFiniteKernel κ] : co
...
+lemma condKL_zero_left : condKL 0 η μ = 0 := by
+  rw [condKL_of_ae_ne_top_of_integrable _ _]
+  rotate_left
+  · simp only [kernel.zero_apply, kl_zero_left, ne_eq, EReal.zero_ne_top, not_false_eq_true,
+      eventually_true]
+  · simp only [kernel.zero_apply, kl_zero_left, EReal.toReal_zero, integrable_zero]
+  simp only [kernel.zero_apply, kl_zero_left, EReal.toReal_zero, integral_zero, EReal.coe_zero]
+
+@[simp]
+lemma condKL_zero_right [NeZero μ] (h : ∀ᵐ a ∂μ, κ a ≠ 0) : condKL κ 0 μ = ⊤ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: you have the hypothesis using `Eventually`, but would `Frequently` be enough?

File: TestingLowerBounds/KullbackLeibler.lean [hunk 2]
```diff
@@ -269,18 +339,53 @@ lemma condKL_nonneg (κ η : kernel α β) [IsMarkovKernel κ] [IsMarkovKernel 
...
 
-lemma kl_compProd_right (κ : kernel α β) [CountablyGenerated β] [IsFiniteMeasure μ] [IsFiniteMeasure ν]
-    [IsMarkovKernel κ] :
+lemma kl_compProd_right (κ : kernel α β) [CountablyGenerated β] [IsFiniteMeasure μ]
+    [IsFiniteMeasure ν] [IsMarkovKernel κ] :
     kl (μ ⊗ₘ κ) (ν ⊗ₘ κ) = kl μ ν := by
   rw [kl_eq_fDiv, kl_eq_fDiv]
   exact fDiv_compProd_right μ ν κ (by measurability) Real.convexOn_mul_log
 
+section IntegralLemma
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: move that to a (new?) auxiliary file for now, don't keep it in the KL file.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 3]
```diff
@@ -301,7 +406,8 @@ lemma kl_compProd [CountablyGenerated β] [IsMarkovKernel κ] [IsMarkovKernel η
   · simp only [h_int, not_false_eq_true, kl_of_not_integrable]
     rw [integrable_llr_compProd_iff h_prod] at h_int
     set_option push_neg.use_distrib true in push_neg at h_int
-    rcases h_int with ((h | h) | h) <;> simp [h, EReal.top_add_of_ne_bot, condKL_ne_bot, EReal.add_top_of_ne_bot, kl_ne_bot]
+    rcases h_int with ((h | h) | h) <;>
+    simp [h, EReal.top_add_of_ne_bot, condKL_ne_bot, EReal.add_top_of_ne_bot, kl_ne_bot]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
      simp [h, EReal.top_add_of_ne_bot, condKL_ne_bot, EReal.add_top_of_ne_bot, kl_ne_bot]
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 4]
```diff
@@ -354,46 +451,37 @@ lemma kl_compProd [CountablyGenerated β] [IsMarkovKernel κ] [IsMarkovKernel η
...
-      · suffices hh : kl (κ a) (η a) = ∫ x, llr (κ a) (η a) x ∂(κ a) from by simp [hh]
-        exact kl_of_ac_of_integrable (ha) h
-      · rw [kl_of_not_integrable h]
-        simp only [h, not_false_eq_true, integral_undef, EReal.toReal_top]
+      have h := ha.ae_le (kernel.rnDeriv_eq_rnDeriv_measure κ η a)
+      apply integral_congr_ae
+      filter_upwards [h] with x hx
+      rw [hx]
+
+--TODO: decide the name for this lemma, in the blueprint it is called kl_chain_rule_prod, but if we call it like that maybe we have to change also the name of the previous one. A possible name could be kl_joint, but I'm not sure about it
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: reverse the equality and call it `kl_fst_add_condKL`?

File: TestingLowerBounds/KullbackLeibler.lean [hunk 5]
```diff
@@ -354,46 +451,37 @@ lemma kl_compProd [CountablyGenerated β] [IsMarkovKernel κ] [IsMarkovKernel η
...
+--Why do we need to assume that β is not empty?
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: If I remember correctly, beta needs to be nonempty for condKernel to exist, otherwise we can't say that there exists a suitable function.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 6]
```diff
@@ -196,43 +226,60 @@ lemma condKL_of_ae_ne_top_of_integrable (h1 : ∀ᵐ a ∂μ, kl (κ a) (η a) 
...
-  contrapose! h
-  have hh : (fun a => integral (κ a) (llr (κ a) (η a))) =ᵐ[μ] fun a => (kl (κ a) (η a)).toReal := by
-    have h1 := of_not_not (condKL_of_not_ae_ac.mt h)
-    have h2 := of_not_not (condKL_of_not_ae_ne_top.mt h)
-    filter_upwards [h1, h2] with a ha1 ha2
-    rw [kl_of_ac_of_integrable ha1 (of_not_not (kl_of_not_integrable.mt ha2))]
-    simp only [EReal.toReal_coe]
-  exact Integrable.congr (of_not_not (condKL_of_not_integrable.mt h)) hh.symm
+  by_cases h_ne_top : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤
+  swap ; exact condKL_of_not_ae_ne_top h_ne_top
```
Comment (LorenzoLuccioli) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  swap; exact condKL_of_not_ae_ne_top h_ne_top
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 7]
```diff
@@ -310,33 +384,24 @@ lemma kl_compProd [CountablyGenerated β] [IsMarkovKernel κ] [IsMarkovKernel η
     filter_upwards [ha.ae_le (kernel.rnDeriv_eq_rnDeriv_measure κ η a)] with x hx
     rw [hx, llr_def]
   have intκη2 := ae_integrable_llr_of_integrable_llr_compProd h_prod h_int
-  calc kl (μ ⊗ₘ κ) (ν ⊗ₘ η) = ↑(∫ p, llr (μ ⊗ₘ κ) (ν ⊗ₘ η) p ∂(μ ⊗ₘ κ)) :=
+  calc kl (μ ⊗ₘ κ) (ν ⊗ₘ η) = ∫ p, llr (μ ⊗ₘ κ) (ν ⊗ₘ η) p ∂(μ ⊗ₘ κ) :=
     kl_of_ac_of_integrable h_prod h_int
-  _ = ↑(∫ (a : α), ∫ (x : β), llr (μ ⊗ₘ κ) (ν ⊗ₘ η) (a, x) ∂κ a ∂μ) := by
+  _ = ∫ a, ∫ x, llr (μ ⊗ₘ κ) (ν ⊗ₘ η) (a, x) ∂κ a ∂μ := by
     norm_cast
     exact Measure.integral_compProd h_int
```
Comment (LorenzoLuccioli) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  _ = ∫ a, ∫ x, llr (μ ⊗ₘ κ) (ν ⊗ₘ η) (a, x) ∂κ a ∂μ := mod_cast Measure.integral_compProd h_int
```

**Comment by RemyDegenne** [comment]
The two dependencies are now merged. Can you merge master into this branch to reduce the diff?

File: TestingLowerBounds/ForMathlib/IntegralCongr2.lean [hunk 8]
```diff
@@ -0,0 +1,30 @@
+import Mathlib.Probability.Kernel.Basic
+
+open MeasureTheory ProbabilityTheory
+
+namespace MeasureTheory
+
+--TODO: put this lemma in a separate file, then PR it to mathlib, I'm not sure it can just go in the same file as integral_congr_ae, since it uses the kernels. maybe we could do a simpler version with 2 probability measures instead of kernels. decide what to do with the 2 vertions, are they both useful?
+--I could have proven the second one using the first, but it is probabily easier to do them separately, also in this way we can put them in separate files without worring about dependencies
+--also about the names, if we put the two lemmas under different namespaces (the first one could go under something that contains kernel) we can give them the same name
+variable {α β: Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/IntegralCongr2.lean]:
```suggestion
variable {α β : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
```

File: TestingLowerBounds/ForMathlib/IntegralCongr2.lean [hunk 9]
```diff
@@ -0,0 +1,30 @@
...
+variable {μ : Measure α} {ν : Measure β} {κ : kernel α β}
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/IntegralCongr2.lean]: You don't need to write `variable` at each new line. You can also simply indent the next line.

File: TestingLowerBounds/ForMathlib/IntegralCongr2.lean [hunk 10]
```diff
@@ -0,0 +1,30 @@
...
+--change the name of this one
+lemma integral_congr_ae₂' {f g : α → β → G} (h : ∀ᵐ a ∂μ, f a =ᵐ[ν] g a) :
+    ∫ a, ∫ b, f a b ∂ν ∂μ = ∫ a, ∫ b, g a b ∂ν ∂μ := by
+  apply integral_congr_ae
+  filter_upwards [h] with a ha
+  apply integral_congr_ae
+  filter_upwards [ha] with b hb using hb
+
+-- #find_home! ProbabilityTheory.integral_congr_ae₂
+#minimize_imports
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/IntegralCongr2.lean]:
```suggestion
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 11]
```diff
@@ -295,6 +305,26 @@ lemma condKL_self (κ : kernel α β) (μ : Measure α) [IsFiniteKernel κ] : co
...
     condKL_of_ae_ne_top_of_integrable, integral_zero, EReal.coe_zero, EReal.zero_ne_top]
 
+@[simp]
+lemma condKL_zero_left : condKL 0 η μ = 0 := by
+  rw [condKL_of_ae_ne_top_of_integrable _ _]
+  rotate_left
+  · simp only [kernel.zero_apply, kl_zero_left, ne_eq, EReal.zero_ne_top, not_false_eq_true,
+      eventually_true]
+  · simp only [kernel.zero_apply, kl_zero_left, EReal.toReal_zero, integrable_zero]
+  simp only [kernel.zero_apply, kl_zero_left, EReal.toReal_zero, integral_zero, EReal.coe_zero]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  · simp only [kernel.zero_apply, kl_zero_left, EReal.toReal_zero, integral_zero, EReal.coe_zero]
  · simp only [kernel.zero_apply, kl_zero_left, ne_eq, EReal.zero_ne_top, not_false_eq_true,
      eventually_true]
  · simp only [kernel.zero_apply, kl_zero_left, EReal.toReal_zero, integrable_zero]
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 12]
```diff
@@ -309,6 +339,12 @@ lemma condKL_nonneg (κ η : kernel α β) [IsMarkovKernel κ] [IsMarkovKernel 
   · exact Real.continuous_mul_log.continuousOn
   · norm_num
 
+lemma condKL_const {ξ : Measure β} [IsFiniteMeasure ξ] [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean:342]:
```suggestion
@[simp]
lemma condKL_const {ξ : Measure β} [IsFiniteMeasure ξ] [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 13]
```diff
@@ -394,46 +420,38 @@ lemma kl_compProd [CountablyGenerated β] [IsMarkovKernel κ] [IsMarkovKernel η
...
-        exact kl_of_ac_of_integrable (ha) h
-      · rw [kl_of_not_integrable h]
-        simp only [h, not_false_eq_true, integral_undef, EReal.toReal_top]
+      have h := ha.ae_le (kernel.rnDeriv_eq_rnDeriv_measure κ η a)
+      apply integral_congr_ae
+      filter_upwards [h] with x hx
+      rw [hx]
+
+--TODO: decide the name for this lemma, in the blueprint it is called kl_chain_rule_prod, but if we call it like that maybe we have to change also the name of the previous one. A possible name could be kl_joint, but I'm not sure about it
+--Why do we need to assume that β is not empty?
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
```

**Review by RemyDegenne — APPROVED** [review]
